US05051508
Impure 1-(2-methylphenyl)-4-oxo-6-methyl-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline (10.0 g) and phenyl phosphorodiamidate (12 g) were fused at 230° C. After 30 minutes the mixture was diluted with diphenyl ether (50 ml), further phenyl phosphorodiamidate (4 g) added, and heated for a further 30minutes at 230° C. Aqueous sodium hydroxide was added and the product extracted into dichloromethane. Chromatography (silica gel, 3% methanolic ammonia in dichloromethane) to remove unchanged starting material was followed by recrystallisation from ethanol to yield 1-(2-methylphenyl)-4-amino-6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline (1.51 g), m.p. 173°-174°.

reactant | 1-(2-methylphenyl)-4-oxo-6-methyl-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline | 10.0 g | CC1=C(C=CC=C1)N1CCC=2C(NC=3C(=CC=CC3C21)C)=O | C19H18N2O
reactant | phenyl phosphorodiamidate | 12 g | P(OC1=CC=CC=C1)(=O)(N)N | C6H9N2O2P
reactant | phenyl phosphorodiamidate | 4 g | P(OC1=CC=CC=C1)(=O)(N)N | C6H9N2O2P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diphenyl ether | 50 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 1-(2-methylphenyl)-4-amino-6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline | 1.51 g | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)C)N | C19H19N3
